US09034900B2
Step 1: 6-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)furo[2,3-c]pyridin-7-one
A solution of 4-bromo-6-methylfuro[2,3-c]pyridin-7-one (200 mg, 0.88 mmol), 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (447 mg, 1.76 mmol), KOAc (259 mg, 2.64 mmol), Pd2(dba)3 (82 mg, 0.09 mmol), X-Phos (52 mg, 0.11 mmol) in dioxane (5 mL) was bubbled with nitrogen for 5 minutes and then stirred at 70° C. for 12 h. The reaction mixture was concentrated, treated with DCM (30 mL), washed with water (30 mL) and brine (30 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography (PE:EA=20:15:1) to give the title compound (130 mg, 54%) as a gray solid. 1H NMR (CDCl3, 400 MHz) δ 7.73 (s, 1H) 7.62 (s, 1H) 7.01 (s, 1H) 3.68 (s, 3H) 1.35 (s, 12H). LCMS (M+H)+=276.

reactant | 4-bromo-6-methylfuro[2,3-c]pyridin-7-one | 0.88 mmol, 200 mg | BrC=1C2=C(C(N(C1)C)=O)OC=C2 | C8H6BrNO2
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 1.76 mmol, 447 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 2.64 mmol, 259 mg | CC(=O)[O-].[K+]
reactant | X-Phos | 0.11 mmol, 52 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.09 mmol, 82 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)furo[2,3-c]pyridin-7-one | 130 mg, 54% | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=CO2)=O | C14H18BNO4
